US06852726B2
Following the procedure described by R. D. Clark et al. in Synthesis, 871 (1991), (4-chloro-2-methyl-phenyl)-carbamic acid tert-butyl ester (2.18 g, 9 mmole) was dissolved in anhydrous THF (30 ml) and cooled to −40° C. and s-BuLi (14.56 ml 1.3N in cyclohexane) was added slowly at such a rate to maintain the temperature below −25° C. The bright yellow solution was cooled to −50° C. and a solution of N-methoxy-N-methyl-isobutyramide (1.24 g, 9.5 mmole) in THF (5 ml) was added. The mixture was allowed to warm up to −10° C. over a 20 m period during which time the solution turned nearly colorless. Ether (50 ml) was added and the solution was poured into 1% aqueous HCl (50 ml). The aqueous layer was extracted a second time with ether (30 ml) and the combined organic extracts were washed with water and brine, dried over sodium sulfate, filtered and evaporated to dryness to afford the crude product which was purified by column chromatography (silica gel) eluting with ethyl acetate:hexane (4:1) to afford pure [4-chloro-2-(3-methyl-2-oxo-butyl)-phenyl]-carbamic acid tert-butyl ester.

reactant | (4-chloro-2-methyl-phenyl)-carbamic acid tert-butyl ester | 9 mmole, 2.18 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)C)=O | C12H16ClNO2
reactant | s-BuLi | 1.3N, 14.56 ml | [Li]C(C)CC
reactant | N-methoxy-N-methyl-isobutyramide | 9.5 mmole, 1.24 g | CON(C(C(C)C)=O)C | C6H13NO2
reactant | HCl | 50 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Ether | 50 ml | CCOCC | C4H10O
product | [4-chloro-2-(3-methyl-2-oxo-butyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)CC(C(C)C)=O)=O | C16H22ClNO3
